US03943124
17β-Cyano-3α-hydroxy- 5α-androstane
A solution of 17β-cyano-5α-androstan-3-one (1.0 g.) in the minimum volume of isopropanol (ca. 75 ml.) was added to a stock solution of chloroiridic acid/trimethyl phosphite complex (50 ml.) preneutralised to pH4 with triethylamine (4 ml.). This solution, after being refluxed for 20 hours, was poured into water (200 ml.) and extracted with chloroform. The chloroform solution was washed with water, dried (MgSO4), filtered and evaporated to a gum (1.13 g.). This was subjected to preparative t.l.c. eluting successively with ethanol/chloroform (1:49) and ethyl acetate/benzene (1:19). The main band was removed between the eluant change and the final elution was repeated four times before removing the main band. This gave pure title compound (195 mg.) as a white solid; m.p. 156°-159°; [α]D + 56° (c 0.4%).

reactant | 17β-cyano-5α-androstan-3-one | 1.0 g | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H29NO
reactant | isopropanol | ca. 75 ml | C(C)(C)O | C3H8O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | water | 200 ml | O | H2O
product | 17β-Cyano-3α-hydroxy- 5α-androstane | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O | C20H31NO
